US06057354
To a stirred solution of 54.34 grams (0.131 mole) of 3-acetyl-5-amino-1-[2,6-dichloro-4-(trifluromethyl)phenyl]-4-methylsulfonyl-1H-pyrazole in 500 mL of dioxane was added, in sequence, 36.7 mL (0.522 mole) of mercaptoethanol, 71.1 grams (0.522 mole) of anhydrous zinc chloride and 62.1 grams (0.522 mole) of anhydrous sodium sulfate while cooling at 0° C. in an ice bath. The mixture was then stirred for a period of approximately 17 hours while allowing it to warm to room temperature. The mixture was filtered to remove salts and the filtrate concentrated under reduced pressure and diluted with 40 mL of acetonitrile, collecting the product by filtering at 35° C. The filtrate was further diluted with acetonitrile to obtain a second crop of product. The combined crops of 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-3-(2-methyl-1,3-oxathiolane-2-yl)-4-methylsulfonyl-1H-pyrazole gave 30.53 grams of material, having a melting point of 201° C. This compound is hereinafter referred to as Compound No. 23.

reactant | 3-acetyl-5-amino-1-[2,6-dichloro-4-(trifluromethyl)phenyl]-4-methylsulfonyl-1H-pyrazole | 0.131 mole, 54.34 grams | C(C)(=O)C1=NN(C(=C1S(=O)(=O)C)N)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C13H10Cl2F3N3O3S
reactant | mercaptoethanol | 0.522 mole, 36.7 mL | SC(C)O | C2H6OS
reactant | sodium sulfate | 0.522 mole, 62.1 grams | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 500 mL | O1CCOCC1 | C4H8O2
catalyst | zinc chloride | 0.522 mole, 71.1 grams | [Cl-].[Zn+2].[Cl-]
product | 5-amino-1-[2,6-dichloro-4-(trifluoromethyl)phenyl]-3-(2-methyl-1,3-oxathiolane-2-yl)-4-methylsulfonyl-1H-pyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C1(OCCS1)C)S(=O)(=O)C | C15H14Cl2F3N3O3S2
